US05707690
2-Hydroxy-4-isooctyl-5-(1,1-dimethylpropyl)benzophenone
A mixture of 10 g (35 mmol) of 2,4-dihydroxy-5-(1,1-dimethylpropyl)benzophenone, 7.9 g (38 mmol) of iso-bromooctane (mixture of isomers), 9.7 g (70 mmol) of potassium carbonate and 0.6 g (3.5 mmol) of potassium iodide in 30 ml of xylene is stirred at 110° C. for 8 h. The reaction mixture is cooled, then treated with 100 ml of water and extracted with ethyl acetate. The resulting solution is washed with water and then with saturated sodium chloride solution. The residue which remains after drying over MgSO4, filtering and concentrating by evaporation is distilled in a bulb tube (190° C./4 mbar). 11.2 g (86.4%) of the compound are obtained as a yellow liquid.

reactant | 2,4-dihydroxy-5-(1,1-dimethylpropyl)benzophenone | 35 mmol, 10 g | OC1=C(C(=O)C2=CC=CC=C2)C=C(C(=C1)O)C(CC)(C)C | C18H20O3
reactant | potassium carbonate | 70 mmol, 9.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 3.5 mmol, 0.6 g | [I-].[K+]
reactant | water | 100 ml | O | H2O
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Hydroxy-4-isooctyl-5-(1,1-dimethylpropyl)benzophenone | 11.2 g, 86.4% | OC1=C(C(=O)C2=CC=CC=C2)C=C(C(=C1)CCCCCC(C)C)C(CC)(C)C | C26H36O2
